US06043366
8-Cyclodecyl-1-phenyl-3-(3-trifluoromethyl-benzyl)-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride (1:1)
The title compound, white solid, m. p. 197° C. and MS: m/e=528.3 (M+H+) was prepared in accordance with the general method of example 24 from 8-cyclodecyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride and 3-trifluoromethylbenzylchloride.

reactant | 8-cyclodecyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride | Cl.C1(CCCCCCCCC1)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1
reactant | 3-trifluoromethylbenzylchloride | FC(C=1C=C(CCl)C=CC1)(F)F | C8H6ClF3
product | 8-Cyclodecyl-1-phenyl-3-(3-trifluoromethyl-benzyl)-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride | Cl.C1(CCCCCCCCC1)N1CCC2(C(N(CN2C2=CC=CC=C2)CC2=CC(=CC=C2)C(F)(F)F)=O)CC1 | InChI=1S/C31H40F3N3O.ClH/c32-31(33,34)26-13-11-12-25(22-26)23-36-24-37(28-16-9-6-10-17-28)30(29(36)38)18-20-35(21-19-30)27-14-7-4-2-1-3-5-8-15-27;/h6,9-13,16-17,22,27H,1-5,7-8,14-15,18-21,23-24H2;1H
